US05232940
To a solution of 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (2.33 g) in dry tetrahydrofuran (30 ml) was added with stirring at room temperature, a solution of tert-butyl nitrite (1.36 ml) in dry tetrahydrofuran (5 ml) during 2 minutes. The solution was then heated under reflux for 1 hour and cooled, and additional tert-butyl nitrite (2.72 ml) was added. The solution was heated under reflux for 30 minutes, and left to cool overnight. Evaporation in vacuo gave an orange oil, which was purified by chromatography on silica (Merck, 40-230 mesh, 0.7 kg cm-2) eluting with dichloromethane-hexane (1:1). The product was finally recrystallized from hexane to give 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole, m.p. 121°-123° C., as white crystals.

reactant | 5-amino-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 2.33 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)C#N | C12H4Cl2F6N4
reactant | tert-butyl nitrite | 1.36 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | tert-butyl nitrite | 2.72 ml | N(=O)OC(C)(C)C | C4H9NO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | C(#N)C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C12H3Cl2F6N3
